US05051505
4-(t-Butylmethylsilyl)-1-methylpiperazine (III, R2, R3 and R4 : Methyl; R5 : t-Butyl)
10 g (0.1 mol) of 1-methylpiperazine and 11.1 g (0.11 mol) of triethylamineare dissolved in 500 ml of methylene chloride and then the reaction mixtureis cooled to 0° C. A solution of 16.6 g (0.11 mol) of t-butyldimethylsilyl chloride in 20 ml of methylene chloride is slowly added to the reaction mixture and stirred at room temperature for 18 hours. The reaction mixture is passed through a silica gel column and the solvent is stripped off under reduced pressure. The residue is distilled under reduced pressure (115° C. to 120° C./0.5 mmHg) to afford 18.4 g of a colorless liquid compound.

reactant | 1-methylpiperazine | 0.1 mol, 10 g | CN1CCNCC1 | C5H12N2
reactant | t-butyldimethylsilyl chloride | 0.11 mol, 16.6 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
solvent | methylene chloride | 500 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | 4-(t-Butylmethylsilyl)-1-methylpiperazine | 18.4 g, Yield: 86% | C(C)(C)(C)[SiH](N1CCN(CC1)C)C | C10H24N2Si
